US05869712
A solution of N-(2-hydroxyethyl)laurylimidazoline (5 g, 18.7 mmol) and sodium hydroxide pellets (40 mg) in water (1.06 g) is heated at 80° C. for 1 hour. A mixture of glyoxal at a concentration of 40% in water (2.7 g, 18.7 mmol) and 1-propanol (5 g) is then added and the residual solution is heated for 6 hours at 80° C. An assay by capillary electrophoresis indicates a yield of 85% of N-lauroyl-N'-(2-hydroxyethyl)-N'-(carboxymethyl)ethylene-diamine.

reactant | N-(2-hydroxyethyl)laurylimidazoline | 18.7 mmol, 5 g | OCCCCCCCCCCCCCCN1C=NCC1 | C17H34N2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | glyoxal | C(=O)C=O | C2H2O2
reactant | 1-propanol | 5 g | C(CC)O | C3H8O
reactant | water | 1.06 g | O | H2O
reactant | water | 18.7 mmol, 2.7 g | O | H2O
product | N-lauroyl-N'-(2-hydroxyethyl)-N'-(carboxymethyl)ethylene-diamine | yield of 85% | C(CCCCCCCCCCC)(=O)NCCN(CC(=O)O)CCO | C18H36N2O4
